US04342780
B. 2-Amino-2-fluoromethyl-3-(3,4-dimethoxyphenyl)propionitrile
To a suspension of 1-fluoro-3-(3,4-dimethoxyphenyl)-2-propanone (31.5 g, 0.149 mol) and ammonium chloride (9.57 g, 0.179 mol) in a solution of 28% aqueous ammonia (170 ml) is added sodium cyanide (8.77 g, 0.179 mol). The reaction mixture is stirred at room temperature under nitrogen for 20 hours. The solid which separates is removed by filtration on sintered glass, and then washed with 28% aqueous ammonia (50 ml). The solid is dissolved in ether (1.3 l) and the solution is washed with water, then with brine, dried (MgSO4), and filtered. Upon concentration of the solvent, 2-amino-2-fluoromethyl-3-(3,4-dimethoxyphenyl)propionitrile crystallizes (21.8 g), m.p. 76° C.

reactant | 1-fluoro-3-(3,4-dimethoxyphenyl)-2-propanone | 0.149 mol, 31.5 g | FCC(CC1=CC(=C(C=C1)OC)OC)=O | C11H13FO3
reactant | ammonium chloride | 0.179 mol, 9.57 g | [Cl-].[NH4+]
reactant | sodium cyanide | 0.179 mol, 8.77 g | [C-]#N.[Na+]
solvent | ammonia | 170 ml | N | H3N
product | 2-Amino-2-fluoromethyl-3-(3,4-dimethoxyphenyl)propionitrile | NC(C#N)(CC1=CC(=C(C=C1)OC)OC)CF | C12H15FN2O2
